US07667041B2
To a solution of (E)-5-chloro-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ethyl ester (50.mg) obtained in Example 417 in acetonitrile (2 mL) and water (0.2 mL), chroman-4-ylamine (CAS#53981-38-7) (31 mg) and cesium carbonate (90 mg) were added at room temperature, and the mixture was reacted in a microwave synthesizing equipment (80 W;150° C.) for 1 hour. The reaction solution was allowed to be cooled to room temperature, water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer was washed with a saturated sodium chloride solution, and the organic layer was concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, an elution solvent:heptane-ethyl acetate system), and (E)-5-(chroman-4-ylamino)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester (25 mg) was obtained. 2N sodium hydroxide solution (1 mL) was added to an ethanol (3 mL) solution of the (E)-5-(chroman-4-ylamino)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester (59 mg) obtained by repeating the above-mentioned operation at room temperature, the reaction solution was agitated at room temperature for 12 hours, and heat-refluxing was carried out for further 1 hour. The reaction solution was allowed to be cooled to room temperature, 2N hydrochloric acid (1 mL) was added to the reaction solution under ice-cooling, and the reaction solution was concentrated under reduced pressure. EDC (50 mg) and HOBT (36 mg) were added to a DMF (3 mL) suspension of the obtained residue, and the reaction solution was agitated at room temperature for 16 hours. Water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. The organic layer was washed with a saturated sodium chloride solution, and the organic layer was concentrated under reduced pressure after dried over anhydrous magnesium sulfate. The obtained residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, an elution solvent:heptane-ethyl acetate system), and (E)-1-(chroman-4-yl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one racemate (21 mg) was obtained. This compound (21 mg) was separated in CHIRALPAK™ AD-H available from Daicel Chemical Industries, Ltd. (2 cm×25 cm: mobile phase; ethanol), and the title optically-active substance with a retention time of 45 minutes (7 mg;>99% ee) and the title optically-active substance with a retention time of 61 minutes (6 mg;>99% ee) were obtained. The physical properties of the title optically-active substance with a retention time of 45 minutes (Example 419) is as follows.

reactant | sodium hydroxide | 2N, 1 mL | [OH-].[Na+]
reactant | (E)-5-(chroman-4-ylamino)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]valeric acid ethyl ester | 59 mg | C(C)OC(/C(/CCCNC1CCOC2=CC=CC=C12)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C28H33N3O4
reactant | hydrochloric acid | 2N, 1 mL | Cl | ClH
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | (E)-1-(chroman-4-yl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | O1CCC(C2=CC=CC=C12)N1C(/C(/CCC1)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H27N3O3
